US03978228
2-Nitrophenyl 2,3-dichloropropanesulfonate
To a solution of 24.3 g of 2-nitrophenyl 2-propenesulfonate in 80 ml of chloroform was added 7.1 g of chlorine absorbed in 20 ml of chloroform dropwise with stirring below 0°C. After the addition, the mixture was stirred for two hours at room temperature. By distillation of the solvent and fractionation, 25.2 g of 2-nitrophenyl 2,3-dichloropropanesulfonate, B.P 167°-169°C/0.015 mmHg, was obtained in a yield of 80.3%.

reactant | 2-nitrophenyl 2-propenesulfonate | 24.3 g | C(C=C)S(=O)(=O)OC1=C(C=CC=C1)[N+](=O)[O-] | C9H9NO5S
reactant | chlorine | 7.1 g | ClCl | Cl2
reactant | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Nitrophenyl 2,3-dichloropropanesulfonate | yield of 80.3% | ClC(CS(=O)(=O)OC1=C(C=CC=C1)[N+](=O)[O-])CCl | C9H9Cl2NO5S
